US09260408B2
[E] (rac)-N-{1-[5-(7-Fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yl]-ethyl}-propionamide
To a mixture of 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-22, 168 g, 0.55 mmol) and (rac)-N-[1-(5-bromo-pyridin-3-yl)-ethyl]-propionamide (125 mg, 0.5 mmol) in DMF (3 mL), purged with argon for 1 min, was added bis(triphenylphosphine)palladium(II)chloride (38 mg, 0.054 mmol) and 1 N aq. Na2CO3 (2.5 mL). Then, the resulting reaction mixture was heated in a microwave at 100° C. for 45 min. After cooling to room temperature, it was diluted with EtOAc (5 mL), and poured into satd. aq. solution of NaHCO3 (10 mL). The aqueous layer was extracted with EtOAc (3×5 mL) and combined organics were washed with water and brine (20 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was the purified by prep-HPLC to give the title compound (35 mg, 20%) as a white solid. MS: 356.3 (M+H+)+.

reactant | 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 0.55 mmol, 168 g | FC1=C(C=C2CCC(N(C2=C1)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BFNO3
reactant | (rac)-N-[1-(5-bromo-pyridin-3-yl)-ethyl]-propionamide | 0.5 mmol, 125 mg | BrC=1C=C(C=NC1)C(C)NC(CC)=O | C10H13BrN2O
reactant | Na2CO3 | 1 N, 2.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.054 mmol, 38 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | (rac)-N-{1-[5-(7-Fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-yl]-ethyl}-propionamide | 35 mg, 20% | FC1=C(C=C2CCC(N(C2=C1)C)=O)C=1C=C(C=NC1)C(C)NC(CC)=O | C20H22FN3O2
